US07893090B2
(RS)-1-[2-(5-Bromo-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
The title compound (490 mg) was prepared from 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride (488 mg) and (RS)-2-(5-bromo-benzofuran-2-ylmethyl)-piperidine, D70 (530 mg) by a procedure similar to that described for Example 1.

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride | 488 mg | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)Cl | C11H7ClFNOS
reactant | (RS)-2-(5-bromo-benzofuran-2-ylmethyl)-piperidine | BrC=1C=CC2=C(C=C(O2)CC2NCCCC2)C1 | C14H16BrNO
product | (RS)-1-[2-(5-Bromo-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 490 mg | BrC=1C=CC2=C(C=C(O2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)C1 | C25H22BrFN2O2S
